US05399568
2-[1-(9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl)-4-piperidyl]-2-propanol.
A solution of 9,10-dihydro-9,10-methanoanthracene-9-carboxaldehyde (1.00 g, 4.54 mmol) and ethyl isonipecotate (1.07 g, 6.81 mmol) in methanol was treated with glacial acetic acid until the solution had a pH~5. Crushed 3 angstrom sieves (1.0 g) were added, and the mixture was stirred at room temperature for 2 h. Sodium cyanoborohydride (630 mg, 10.03 mmol) was then added, and the mixture was stirred at room temperature for 18 h. After this time, additional quantities of sodium cyanoborohydride (100 mg) and 3 angstrom sieves (1.0 g, crushed) were added, and the mixture was stirred an additional 6 h. The solids were removed by filtration and washed with chloroform (3×25 mL). The filtrate was washed sequentially with 10% aqueous sodium hydroxide (2×30 mL) and brine (30 mL). The aqueous washes were extracted with chloroform (2×50 mL). The organic extracts were combined, dried over potassium carbonate, filtered and evaporated to leave a dark semi-solid mass (1.4 g). Purification by flash chromatography over silica gel (eluant: 99.5:0.5 chloroform/methanol) afforded the title compound as a light yellow solid (800 mg, 2.21 mmol, 49%).

reactant | 9,10-dihydro-9,10-methanoanthracene-9-carboxaldehyde | 4.54 mmol, 1.00 g | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)C=O | C16H12O
reactant | ethyl isonipecotate | 6.81 mmol, 1.07 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 10.03 mmol, 630 mg | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 100 mg | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | 2-[1-(9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl)-4-piperidyl]-2-propanol | 2.21 mmol, 800 mg, 49% | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CN3CCC(CC3)C(C)(C)O | C24H29NO
